US06174895B1
N,N-Dimethyl-3-phenyl-(E)-1-propene-1-amine
A mixture of 19.6 mL (20.0 grams, 149 mmol) of cinnamaldehyde, 40.6 grams (298 mmol) of potassium carbonate, and 150 mL of ether was cooled to −60° C. and treated with a prechilled (−78° C.) solution of 17.8 mL (13.5 grams, 300 mmol) of liquid dimethylamine, condensed from the gas at −78° C., in 20 mL of ether. After stirring for 0.5 hours at −60° C., the mixture was allowed to slowly warm to room temperature and then stirred for an additional 3 hours. The mixture was filtered, concentrated, and distilled to give 10.2 grams (42% yield) of the title compound as a yellow liquid, bp 95-100° C./2.8-3.0 Torr. The liquid slowly polymerized on standing and was used directly. 1H NMR (CDCl3) d 2.57 (6H, s), 3.30 (2H, d, J=7 Hz), 4.35 (1H, dt, J=7, 14 Hz), 5.99 (1H, dt, J=1, 14 Hz), 7.15-732 (5H, m).

reactant | cinnamaldehyde | 149 mmol, 19.6 mL, 20.0 grams | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | potassium carbonate | 298 mmol, 40.6 grams | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylamine | CNC | C2H7N
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | ether | 150 mL | CCOCC | C4H10O
product | N,N-Dimethyl-3-phenyl-(E)-1-propene-1-amine | 10.2 grams, 42% yield | CN(\C=C\CC1=CC=CC=C1)C | C11H15N
